US07547788B2
4-(3-Chloro-4-fluoro-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt
Was prepared according to method B from 1,2,2,6,6-pentamethyl-piperidin-4-ol and 1-chloro-2,5-difluorobenzene. Mp 198.0-200.9° C.

reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | 1-chloro-2,5-difluorobenzene | ClC1=C(C=CC(=C1)F)F | C6H3ClF2
product | 4-(3-Chloro-4-fluoro-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt | Cl.ClC=1C=C(OC2CC(N(C(C2)(C)C)C)(C)C)C=CC1F | InChI=1S/C16H23ClFNO.ClH/c1-15(2)9-12(10-16(3,4)19(15)5)20-11-6-7-14(18)13(17)8-11;/h6-8,12H,9-10H2,1-5H3;1H
